Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[O:1],4.0539128824800015
[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-6.29057131544
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[C:4],4.83437480714
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:9][O:10][H:11].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-2.15658042661
[H:1][O:2]/[C:3](=[C:4]/[C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][O:9][C:10]([H:11])[H:12],4.36686107362
[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10],-3.17666863752
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12],-5.80617013916
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4],5.635566441440001
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:4],1.42853887931
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:4],1.7019261352
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:3],5.173638067830001
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-3.91057562073
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3],7.15026952
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.07159610147
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.19060519844
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],2.9457223066000005
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1],4.1126293190900025
[H:8].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[H:8],-4.406334858409999
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.68879196756
[C:1]#[C:2][C:5](=[O:6])[H:7].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[H:7],-4.938824837099999
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9].[H:10]>>[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]#[C:9][H:10],-3.80698027983
[H:1][C:8]#[C:7][C:4]([C:3]#[C:2][C:9]([H:10])([H:11])[H:12])([H:5])[H:6]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7]=[C:8]1[C:9]([H:10])([H:11])[H:12],1.69606062932
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.49845859151
[C:14]([H:15])([H:16])[H:17].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.63820018018
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],0.251227530001
[C:1]#[C:2][O:3][C:4]([H:5])[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-5.21373924783
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7][H:8]>>[C:5]([H:6])#[C:7][H:8].[O:1][C:2]#[C:3][O:4],0.5767178150600001
[H:1][C:2](=[C:3]([H:4])[H:5])[C:9]([C:6]([H:7])[H:8])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]1([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.1685232251
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],2.00119612766
